US08030489B2
A mixture of tert-butyl [(1S,2R)-2-cyanocyclopentyl]carbamate (2.8 g), toluene (50 ml), sodium azide (2.1 g), and triethylamine hydrochloride (4.5 g) was stirred at 130° C. for 24 hours. To the reaction mixture was added water (40 ml) at room temperature. The aqueous layer was separated, citric acid was added thereto under ice-cooling, and the solid precipitated was collected by filtration and washed with water to obtain tert-butyl [(1S,2R)-2-(2H-tetrazole-5-yl)cyclopentyl]carbamate (3.0 g).

reactant | tert-butyl [(1S,2R)-2-cyanocyclopentyl]carbamate | 2.8 g | C(#N)[C@H]1[C@H](CCC1)NC(OC(C)(C)C)=O | C11H18N2O2
reactant | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
reactant | sodium azide | 2.1 g | [N-]=[N+]=[N-].[Na+]
reactant | triethylamine hydrochloride | 4.5 g | Cl.C(C)N(CC)CC
solvent | water | 40 ml | O | H2O
product | tert-butyl [(1S,2R)-2-(2H-tetrazole-5-yl)cyclopentyl]carbamate | 3.0 g | N=1NN=NC1[C@H]1[C@H](CCC1)NC(OC(C)(C)C)=O | C11H19N5O2
